US03953436
7-Thienylacetamido-3-(n-propoxycarbonyl)-3-cephem-4-carboxylic acid.
Benzhydryl 7-thienylacetamido- 3-(n-propoxycarbonyl)-3-cephem-4-carboxylate was deesterified (65%) with a trifluoroacetic acid-anisole mixture as described in Example 10 to give the title acid as a white solid. The product exhibited biological activity against both gram-positive and gram-negative organisms.

reactant | Benzhydryl 7-thienylacetamido- 3-(n-propoxycarbonyl)-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(=O)OCCC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O6S2
reactant | trifluoroacetic acid anisole | FC(C(=O)O)(F)F.C1(=CC=CC=C1)OC
product | 7-Thienylacetamido-3-(n-propoxycarbonyl)-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(=O)OCCC)C(=O)O)C1=O | C17H18N2O6S2
